US04359420
Phosgene is conducted at 35°-40° C. for 3 hours into a solution of 23 g (0.148 mol) of 6-fluoroanthranilic acid hydrochloride in a mixture of 300 ml of tetrahydrofuran and 150 ml of 4 N hydrochloric acid. After removal of the phosgene, the mixture is diluted with 500 ml of water and the precipitate is filtered off. There is obtained crude 6-fluoroisatoic acid anhydride of melting point 265°-267° C. (decomposition).

reactant | Phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 6-fluoroanthranilic acid hydrochloride | 0.148 mol, 23 g | Cl.FC=1C=CC=C(C1C(=O)O)N
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | hydrochloric acid | 4 N, 150 ml | Cl | ClH
product | 6-fluoroisatoic acid anhydride | FC=1C=CC=C2C1C(=O)OC(N2)=O | C8H4FNO3
